US06987116B2
A mixture of 7-chloro-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile (700 mg, 2.34 mmol) and 6.0 mL of 2.0 M dimethylamine in tetrahydrofuran in 30 mL of dichloromethane and 5 mL of dimethylformamide is cooled to 0-5° C. Sodium triacetoxyborohydride (2.5 g, 11.7 mmol) is added in portions and after 5 minutes 0.10 mL of acetic acid is added. The mixture is stirred at room temperature for 2 hours then quenched by the addition of ice water and partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase is dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of dichloromethane to 10% methanol in dichloromethane to provide 496 mg (65%) of 7-chloro-2-{4-[(dimethylamino)methyl]phenyl}thieno[3,2-b]pyridine-6-carbonitrile as a yellow solid, mp 166-168° C.; 1H NMR (DMSO-d6) δ 2.21 (s, 6H), 3.52 (s, 2H), 7.48 (d, J=8 Hz, 2H), 7.95 (d, J=8 Hz, 2H), 8.28 (s, 1H), 9.11 (s, 1H); MS 328.1, 330.1 (M+H)+; HRMS found: 328.06622.

reactant | 7-chloro-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 2.34 mmol, 700 mg | ClC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)C=O | C15H7ClN2OS
reactant | dimethylamine | 2.0 M, 6.0 mL | CNC | C2H7N
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | Sodium triacetoxyborohydride | 11.7 mmol, 2.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | acetic acid | 0.10 mL | C(C)(=O)O | C2H4O2
product | 7-chloro-2-{4-[(dimethylamino)methyl]phenyl}thieno[3,2-b]pyridine-6-carbonitrile | 496 mg, 65% | ClC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)CN(C)C | C17H14ClN3S
